US08957073B2
(1H-Benzoimidazol-2-yl)-{3-[3-(4-hydroxy-piperidin-1-yl)-pyrazin-2-yl]-azetidin-1-yl}-methanone (0.16 g, 0.42 mmol) was dissolved in anhydrous CH2Cl2 (20 mL), treated with Dess-Martin Periodinane (DMP) (195 mg, 0.46 mmol, 1.1 equiv) and stirred at RT until complete conversion controlled by TLC (Petro ether:EtOAc=1:1). The organic layer was washed with an aqueous solution of NaHCO3/Na2S2O3 (3×10 mL)), dried over Na2SO4, filtered and evaporated. The resulting residue was purified by flash chromatography (20% to 40% EtOAc in petroleum ether) to give 1-{3-[1-(1H-benzoimidazole-2-carbonyl)-azetidin-3-yl]-pyrazin-2-yl}-piperidin-4-one (0.134 g, 0.36 mmol, 85% yield) as a white solid.

reactant | (1H-Benzoimidazol-2-yl)-{3-[3-(4-hydroxy-piperidin-1-yl)-pyrazin-2-yl]-azetidin-1-yl}-methanone | 0.42 mmol, 0.16 g | N1C(=NC2=C1C=CC=C2)C(=O)N2CC(C2)C2=NC=CN=C2N2CCC(CC2)O | C20H22N6O2
reactant | Dess-Martin Periodinane | 0.46 mmol, 195 mg, 1.1 equiv | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | ether | CCOCC | C4H10O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-{3-[1-(1H-benzoimidazole-2-carbonyl)-azetidin-3-yl]-pyrazin-2-yl}-piperidin-4-one | 0.36 mmol, 0.134 g, 85% yield | N1C(=NC2=C1C=CC=C2)C(=O)N2CC(C2)C=2C(=NC=CN2)N2CCC(CC2)=O | C20H20N6O2
